US07683064B2
2-[3-(5-Amino-1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-2-hydroxymethyl-phenyl]-6-dimethylamino-3,4-dihydro-2H-isoquinolin-1-one (40 mg, 0.095 mmol) was placed in a mixture of 1.5 ml dioxane and 0.5 ml of ethanol. To this mixture was added cyano-acetic acid 2,5-dioxo-pyrrolidin-1-yl ester, at first 1 equivalent (17.4 mg, 0.095 mmol), and then over a period of 3 days 5 more equivalents of this reagent at 2-4 hours intervals. During this time the reaction mixture was heated at 50-60° C. After cooling, the reaction mixture was diluted with ethylacetate, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by Prep TLC with 5% methanol in dichloromethylene to afford 12 mg (26% yield) of 2-Cyano-N-{5-[3-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-2-oxo-1,2-dihydro-pyridin-3-yl}-acetamide.

reactant | 2-[3-(5-Amino-1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-2-hydroxymethyl-phenyl]-6-dimethylamino-3,4-dihydro-2H-isoquinolin-1-one | 0.095 mmol, 40 mg | NC1=CC(=CN(C1=O)C)C=1C(=C(C=CC1)N1C(C2=CC=C(C=C2CC1)N(C)C)=O)CO | C24H26N4O3
reactant | cyano-acetic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(CC#N)=O | C7H6N2O4
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-Cyano-N-{5-[3-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-2-oxo-1,2-dihydro-pyridin-3-yl}-acetamide | 12 mg, 26% yield | C(#N)CC(=O)NC=1C(N(C=C(C1)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2CC1)N(C)C)=O)CO)C)=O | C27H27N5O4
